US04751315
(±) 5,5-Diethoxycarbonyl-1-methyl-4-phenyl-pyrrolidin-2-one
A solution of 100 g (0.33 mole) of (±) 5,5-diethoxycarbonyl-4-phenylpyrrolidin-2-one in 500 ml of absolute dimethylformamide was added dropwise to a suspension of 9.64 g (0.36 mole) of sodium hydride in 200 ml of absolute dimethylformamide at room temperature under an N2 atmosphere. The mixture was subsequently stirred at room temperature until the evolution of gas had ended, a solution of 93.7 g (0.66 mole) of methyl iodide in 50 ml of absolute dimethylformamide was then added and the mixture was stirred at room temperature until all the starting material had reacted (about 1 hour, thin layer chromatography check). The reaction mixture was poured into 2 l of buffer solution, pH=7, and extracted five times with 600 ml of diethyl ether each time. Drying of the organic extracts (MgSO4) and stripping off of the solvent in vacuo gave 105 g (99.6%) of the title compound (95% pure according to the 1H-NMR spectrum), which was further reacted directly. A sample was distilled in a bulb tube (boiling point0.5 : 240° C.) for analysis, Rf : 0.36 (toluene/ethyl acetate: 2/1),

reactant | (±) 5,5-diethoxycarbonyl-4-phenylpyrrolidin-2-one | 0.33 mole, 100 g | C(C)OC(=O)C1(C(CC(N1)=O)C1=CC=CC=C1)C(=O)OCC | C16H19NO5
reactant | sodium hydride | 0.36 mole, 9.64 g | [H-].[Na+]
reactant | methyl iodide | 0.66 mole, 93.7 g | CI | CH3I
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (±) 5,5-Diethoxycarbonyl-1-methyl-4-phenyl-pyrrolidin-2-one | 105 g, 99.6% | C(C)OC(=O)C1(C(CC(N1C)=O)C1=CC=CC=C1)C(=O)OCC | C17H21NO5
